US07129238B2
1-(4-Formylphenyl)-1H-imidazole was reacted according to general procedure A using methanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-(4-imidazol-1-yl-phenyl)-2-methoxy-acetamide. Colorless foam. MS 347.2 ([M+H]+)

reactant | 1-(4-Formylphenyl)-1H-imidazole | C(=O)C1=CC=C(C=C1)N1C=NC=C1 | C10H8N2O
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | methanol dioxane | CO.O1CCOCC1
product | (RS)-N-(4-cyano-benzyl)-2-(4-imidazol-1-yl-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC=C(C=C2)N2C=NC=C2)=O)C=C1 | C20H18N4O2
